US06306891B1
To a 200 mL round bottomed flask with a stirring bar and an argon inlet was added 5-phenyl-1H-pyrrole-2-carboxylic acid AV-5-1 (2.45 g, 13.09 mmol), N,O-dimethylhydroxylamine hydrochloride (1.40 g, 14.40 mmol), N-ethyl-N′-dimethylaminopropylcarbodiimide hydrochloride (2.76 g, 14.40 mmol), hydroxybenztriazole hydrate (1.94 g, 14.40 mmol) and dry, degassed DMF (25 mL). This well stirred mixture was warmed gently until all of the solids dissolved. Et3N (5.6 mL, 40.00 mmol) was added in one portion. The resulting mixture was stirred at ambient temperature 18 h. The solvents were removed in vacuo at +80° C. The residue was partitioned between saturated aqueous NaHCO3 and EtOAc. The layers were separated and the organic phase was washed with H2O (2×) and brine. Drying (MgSO4), filtration and removal of the solvent in vacuo gave a solid. This material was chromatographed on silica gel using 35% EtOAc in hexane as eluant to give 5-phenyl-1H-pyrrole-2-carboxylic acid methoxymethylamide AV-6-1 as a solid. 1H NMR (CDCl3) δ 3.36 (3H, s), 3.80 (3H, s), 6.58 (1H, dd, j=2.2, 4.0 Hz), 6.94 (1H, dd, j=2.2, 4.0 Hz), 7.30 (1H, m), 7.41 (2H, m), 7.58 (2H, m), 9.63 (1H, br s).

reactant | 5-phenyl-1H-pyrrole-2-carboxylic acid | 13.09 mmol, 2.45 g | C1(=CC=CC=C1)C1=CC=C(N1)C(=O)O | C11H9NO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 14.40 mmol, 1.40 g | Cl.CNOC
reactant | N-ethyl-N′-dimethylaminopropylcarbodiimide hydrochloride | 14.40 mmol, 2.76 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenztriazole hydrate | 14.40 mmol, 1.94 g | O.OC1=CC=CC=2NN=NC21
reactant | Et3N | 40.00 mmol, 5.6 mL | CCN(CC)CC | C6H15N
product | 5-phenyl-1H-pyrrole-2-carboxylic acid methoxymethylamide | COCNC(=O)C=1NC(=CC1)C1=CC=CC=C1 | C13H14N2O2
